US08912169B2
Step 2: [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid
To a solution of [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid ethyl ester (0.518 g, 1.74 mmol) in MeOH (16 mL) and THF (4 mL) was added sodium hydroxide (9.0 mL, 1N, 9.0 mmol) and the reaction stirred at RT for 23 hr. The reaction was quenched with H2O and extracted with EtOAc (2×). The aqueous layer was acidified to pH ˜1 with 1N HCl and extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to provide 0.300 g (64%) of product. ESI-MS m/z 270 (MH)+.

reactant | [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid ethyl ester | 1.74 mmol, 0.518 g | C(C)OC(C=C1CCC(CC1)CNC(=O)OC(C)(C)C)=O | C16H27NO4
reactant | sodium hydroxide | 9.0 mmol, 1N, 9.0 mL | [OH-].[Na+]
solvent | MeOH | 16 mL | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid | 0.300 g, 64% | C(C)(C)(C)OC(=O)NCC1CCC(CC1)=CC(=O)O | C14H23NO4
